US09376452B2
tert-Butyl 2-(3-benzoylthioureido)-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate
tert-Butyl 2-amino-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate (0.099 g, 0.39 mmol, 1 equiv.) and PhCONCS (0.06 mL, 0.4 mmol, 1 equiv.) were dissolved in THF (2 mL) and stirred at 50° C. for 16 h. The solvent was removed and the product was purified by preparatory HPLC (0-30% EtOAC:hexanes). The product was isolated as a white solid (0.131 g, 80% yield). 1H NMR (400 MHz, CDCl3) δ 14.75 (s, 1H), 9.21 (s, 1H), 7.92 (dd, J=5.2, 3.3 Hz, 2H), 7.64-7.57 (m, 1H), 7.54-7.46 (m, 2H), 4.71 (s, 2H), 3.94 (t, J=5.6 Hz, 2H), 2.90 (t, J=5.6 Hz, 2H), 1.63 (s, 9H). 13C NMR (101 MHz, CDCl3) δ 173.72, 165.23, 164.54, 147.15, 133.48, 131.81, 129.36, 129.04, 127.77, 125.77, 117.76, 82.36, 65.20, 64.71, 28.51, 27.38.

reactant | tert-Butyl 2-amino-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate | 0.39 mmol, 0.099 g, 1 equiv. | NC1=C(C2=C(COCC2)S1)C(=O)OC(C)(C)C | C12H17NO3S
reactant | THF | 2 mL | C1CCOC1 | C4H8O
product | tert-Butyl 2-(3-benzoylthioureido)-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate | 0.131 g, 80% yield | C(C1=CC=CC=C1)(=O)NC(NC1=C(C2=C(COCC2)S1)C(=O)OC(C)(C)C)=S | C20H22N2O4S2
